US06174887B1
N-[4-[4-(4-Methylaminobutoxy)phenyl]benzoyl]-L-phenylalanine ethyl ester hydrochloride
To a solution of 4-(4-hydroxyphenyl)benzoic acid (3.0 g) and L-phenylalanine ethyl ester hydrochloride (3.38 g) in DMF (30 ml) were added WSC.HCl (2.7 g), HOBT (1.89 g) and triethylamine (2 ml), and the mixture was stirred at room temperature for 14 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with a 10% aqueous citric acid solution, water, a saturated aqueous sodium hydrogen-carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a crude product of the title compound.

reactant | 4-(4-hydroxyphenyl)benzoic acid | 3.0 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | L-phenylalanine ethyl ester hydrochloride | 3.38 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | WSC.HCl | 2.7 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.89 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-[4-[4-(4-Methylaminobutoxy)phenyl]benzoyl]-L-phenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](NC(C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCNC)=O)CC1=CC=CC=C1)=O | InChI=1S/C29H34N2O4.ClH/c1-3-34-29(33)27(21-22-9-5-4-6-10-22)31-28(32)25-13-11-23(12-14-25)24-15-17-26(18-16-24)35-20-8-7-19-30-2;/h4-6,9-18,27,30H,3,7-8,19-21H2,1-2H3,(H,31,32);1H/t27-;/m0./s1
